US04234515
(ii) N,N-Difluorotyramine
N,N-Difluoro-O-benzoyltyramine (130 mg.) in methanol saturated with HCl was heated at 60° C. for 3 hours. The title compound (40 mg, 40%), isolated by preparative layer chromatography on silica gel, was a liquid at room temperature, and exhibited 1H n.m.r. signals, (CDCl3) at δ 3.0 (2H, t, J=8 Hz, Ar--CH2 --CH2 --), δ 3.6 (2H, tt, JHH =8 Hz, JHF =27 Hz, --CH2CH2NF2), δ 4.9 (1H, bs, exchangeable with D2O, --OH) and δ 6.8 (4H, m, aromatic protons); 19F n.m.r. signals (CDCl3) at φ*-55.3 (t, JHF =27 Hz, --CH2NF2). The mass spectrum had a molecular ion at m/e 173 [Accurate mass: M(173)=173.0653; calc. for C8H9NF2O=173.0652].

reactant | N,N-Difluoro-O-benzoyltyramine | 130 mg | FN(CCC1=CC=C(C=C1)OC(C1=CC=CC=C1)=O)F | C15H13F2NO2
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | N,N-Difluorotyramine | 40 mg, 40% | FN(CCC1=CC=C(C=C1)O)F | C8H9F2NO
